US04616014
A mixture of 2-hydroxyiminopropiophenone (150 g) and thiosemicarbazine (90 g) in acetic acid (500 ml) was heated at 60° C. for 60 hours with stirring. After cooling, water was added to the reaction mixture. The resultant precipitates were collected by filtration, washed successively with water, methanol and diisopropyl ether, and dried to give 2-hydroxyiminopropiophenone thiosemicarbazone (188.2 g).

reactant | 2-hydroxyiminopropiophenone | 150 g | ON=C(C(=O)C1=CC=CC=C1)C | C9H9NO2
reactant | thiosemicarbazine | 90 g | C(=S)(N)NN | CH5N3S
reactant | water | O | H2O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2-hydroxyiminopropiophenone thiosemicarbazone | 188.2 g | ON=C(C(C1=CC=CC=C1)=NNC(=S)N)C | C10H12N4OS
